US06362177B1
To a solution of 1-benzyl-4-{N-(tert-butoxycarbonyl)glycyl}aminopiperidine (6.59 g) in methanol (80 mL) was added 4 N HCl in dioxane (19 mL). The solution was stirred at room temperature for 2 h. The reaction mixture was concentrated and 2 N aqueous NaOH solution (20 mL) was added. The mixture was extracted with dichloromethane (40 mL×3), and the combined extracts were dried over anhydrous sodium sulfate and concentrated. Column chromatography (SiO2, AcOEt/MeOH/Et3N=85/12/3) gave 1-(4-chlorobenzyl)-4-(glycylamino)piperidine (3.91 g, 83%): 1H NMR (CDCl3, 400 MHz) d 1.47-1.59 (m, 2H), 1.59 (br, 2H), 1.76-1.96 (m, 2H), 2.10-2.19 (m, 2H), 2.75-2.87 (m, 2H), 3.29 (s, 2H), 3.50 (s, 2H), 3.65-3.89 (m, 1H), 7.15-7.23 (m, 1H), 7.23-7.33 (m, 5H).

reactant | 1-benzyl-4-{N-(tert-butoxycarbonyl)glycyl}aminopiperidine | 6.59 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(CNC(=O)OC(C)(C)C)=O | C19H29N3O3
reactant | HCl | 4 N | Cl | ClH
solvent | methanol | 80 mL | CO | CH4O
solvent | dioxane | 19 mL | O1CCOCC1 | C4H8O2
product | 1-(4-chlorobenzyl)-4-(glycylamino)piperidine | 3.91 g, 83% | ClC1=CC=C(CN2CCC(CC2)NC(CN)=O)C=C1 | C14H20ClN3O
